US07105553B2
Methyl (2′-fluoro[1,1′-biphenyl]-4-yl)acetate
Under argon, 47.6 g (0.21 mol) of methyl 4-bromophenylacetate are initially charged in 400 ml of absolute tetrahydrofuran and, at room temperature, admixed with 320 ml of 1M sodium carbonate solution and 40 g of (0.28 mol) of 2-fluorophenylboronic acid. 7.0 g (0.01 mol) of bis(triphenylphosphane)palladium(II) chloride are added, and the mixture is then heated under reflux for 18 h. After cooling, the mixture is diluted with 500 ml of water and extracted three times with in each case 300 ml of ethyl acetate. The combined organic phases are washed with in each case 400 ml of saturated ammonium chloride solution, water and saturated sodium chloride solution, dried over magnesium sulphate and freed from the solvent under reduced pressure. Example V is obtained after silica gel filtration (petroleum ether/ethyl acetate 10:1) as a colourless oil.

reactant | methyl 4-bromophenylacetate | 0.21 mol, 47.6 g | BrC1=CC=C(C=C1)CC(=O)OC | C9H9BrO2
reactant | sodium carbonate | 1M, 320 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-fluorophenylboronic acid | 0.28 mol, 40 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | Methyl (2′-fluoro[1,1′-biphenyl]-4-yl)acetate | FC1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)OC | C15H13FO2
